US09334245B2
L. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid 2-piperidin-1-yl-ethyl ester (R4=H; R7=—(CH2)2-piperidinyl)
1,2,3-Triazole-4-carboxylic acid (0.0274 g, 0.242 mmol), DIPEA (169 μL, 969 μmol) and HATU (92 mg, 242 μmol) were combined in DMF (0.2 mL) and stirred for 5 minutes at room temperature. This was then combined with (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 2-piperidin-1-yl-ethyl ester (103 mg, 242 μmol), predissolved in DMF (0.2 mL) and DIPEA (0.5 eq.). The resulting mixture was stirred for 15 minutes and the reaction was quenched with AcOH. The product was purified by preparative HPLC and lyophilized to yield the title compound (40 mg; purity 95%). MS m/z [M+H]+ calc'd for C29H37N5O4, 520.28. found 520.4.

reactant | 1,2,3-Triazole-4-carboxylic acid | 0.242 mmol, 0.0274 g | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | DIPEA | 969 μmol, 169 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 242 μmol, 92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 2-piperidin-1-yl-ethyl ester | 242 μmol, 103 mg | N1(CCCCC1)CCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C26H36N2O3
reactant | DIPEA | 0.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid 2-piperidin-1-yl-ethyl ester | 40 mg | N1(CCCCC1)CCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C29H37N5O4
